US05610192
Synthesis of Salicylic (2-hydroxy-1-naphthylmethylene) hydrazide (III109A)
Following the general procedure of Example 1, condensation of 2-hydroxy-1-naphthaldehyde and salicylic hydrazide yielded a pale yellow solid (74%): mp 265° C.; 1H NMR d 12.32 (s, 1 H), 11.65 (br s, 1 H), 11.36 (br s, 1 H), 9.09 (s, 1 H), 7.84 (d, 1 H, J=7.5 Hz), 7.43 (m, 3 H), 7.13 (t, 1 H, J=6.0 Hz), 7.01 (t, 1 H, J=6.6 Hz), 6.83 (t, 1H, J=6.9 Hz), 6.77 (d, 1H, J=8.4 Hz), 6.57 (m, 2 H); 13C NMR d 163.72, 158.58, 157.88, 147.40, 133.75, 132.63, 131.42, 128.64, 128.49, 127.53, 127.44, 123.27, 120.65, 118.87, 118.61, 117.04, 115.35, 108.32; HRMS Calcd for C18H14N2O3 :306.1004, found 306.0985; Anal. (C18H14N2O3) C, H, N.

reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | salicylic hydrazide | C(C=1C(O)=CC=CC1)(=O)NN | C7H8N2O2
product | Salicylic (2-hydroxy-1-naphthylmethylene) hydrazide | 74% | OC1=C(C2=CC=CC=C2C=C1)C=NNC(C=1C(O)=CC=CC1)=O | C18H14N2O3
